US04444584
4-[N-(6,8-dichloro-2-quinolinyl)-N-methylamino]-phenol was prepared from 2,6,8-trichloroquinoline and 4-(N-methylamino)phenol sulfate following essentially the same procedure as that described in Example 19, Part a). Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 8.0-6.6 and 7.1 (9H, m, and d of d, quinoline, OH and phenyl protons; 3.6 (3H, s, N--CH3).

reactant | 2,6,8-trichloroquinoline | ClC1=NC2=C(C=C(C=C2C=C1)Cl)Cl | C9H4Cl3N
reactant | 4-(N-methylamino)phenol sulfate | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 4-[N-(6,8-dichloro-2-quinolinyl)-N-methylamino]-phenol | ClC=1C=C2C=CC(=NC2=C(C1)Cl)N(C)C1=CC=C(C=C1)O | C16H12Cl2N2O
